US07517889B2
A mixture of 2-methoxy-3,6-dichloropyrimidine (635 mg, 3.55 mmol), isonipecotic hydrochloride (706 mg, 4.26 mmol) and sodium bicarbonate (895 mg, 10.65 mmol) in EtOH (12 mL) is heated at 90° C. for 15 hours. The mixture is concentrated, and the residue is taken up in water (30 mL) and extracted three times with EtOAc (25 mL). The aqueous solution is acidified to pH 3 with 10% citric acid and extracted three times with EtOAc (25 mL). The organic extracts from the acidic layer are combined and dried over magnesium sulfate, filtered and concentrated to afford 1-(6-chloro-2-methoxy-pyrimidin-4-yl)-piperidine-4-carboxylic acid [680 mg, 70%] as a solid.

reactant | 2-methoxy-3,6-dichloropyrimidine | 3.55 mmol, 635 mg | COC1N=C(C=CN1Cl)Cl | C5H6Cl2N2O
reactant | hydrochloride | 4.26 mmol, 706 mg | Cl | ClH
reactant | sodium bicarbonate | 10.65 mmol, 895 mg | C([O-])(O)=O.[Na+]
reactant | EtOH | 12 mL | CCO | C2H6O
product | 1-(6-chloro-2-methoxy-pyrimidin-4-yl)-piperidine-4-carboxylic acid | 680 mg, 70% | ClC1=CC(=NC(=N1)OC)N1CCC(CC1)C(=O)O | C11H14ClN3O3
